US07473784B2
1. Ethyl 2-(isopropylamino)thiazolo[4,5-b]pyridine-6-carboxylate
To a solution of ethyl 6-amino-5-bromonicotinate (0.780 g, 3.18 mmol) and isopropyl isothiocyanate (0.34 mL, 3.19 mmol) in DMF (8 mL) was added sodium hydride (60% oil dispersion) at 0° C. in one portion. The mixture was heated at 65° C. for 20 hr, and then at 75° C. for 40 hr. After it cooled to rt, the reaction was quenched with 1N HCl (5 mL). The mixture was poured into saturated NaHCO3 solution and extracted with AcOEt (3×40 mL). The combined extract was washed with 10% lithium chloride solution (2×30 mL) and dried over anhydrous MgSO4. The title compound (0.291 g, 34% yield) was isolated as a white solid by flash chromatography (60% AcOEt/hexane).

reactant | ethyl 6-amino-5-bromonicotinate | 3.18 mmol, 0.780 g | NC1=NC=C(C(=O)OCC)C=C1Br | C8H9BrN2O2
reactant | isopropyl isothiocyanate | 3.19 mmol, 0.34 mL | C(C)(C)N=C=S | C4H7NS
reactant | sodium hydride | [H-].[Na+]
reactant | AcOEt hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(isopropylamino)thiazolo[4,5-b]pyridine-6-carboxylate | 0.291 g, 34% yield | C(C)(C)NC=1SC=2C(=NC=C(C2)C(=O)OCC)N1 | C12H15N3O2S
